US06005000
Mitsunoble coupling of 0.20 g (1.2 mmol) of 4-hydroxy-1,1'-biphenyl with 0.34 g (1.0 mmol) of 3,4-dibenzyloxy-5-(2-hydroxyethyl)-2(5H)-furanone and subsequent benzyl group deprotection by hydrogenation were performed in a similar manner as described in the synthesis of 3,4-dihydroxy-5-[2-(4-phenoxy)phenoxyethyl]-2(5H)-furanone to provide 100 mg (32% yield) of 5-[2-((1,1'-biphenyl)-4-oxy)ethyl]-3,4-dihydroxy-2(5H)-furanone as a white powder after trituration with ether and hexanes: 1H NMR (acetone-d6) δ 7.71-7.02 (m, 9H), 4.97 (dd, J=4.9, 8.7 Hz, 1H), 4.25 (dd, J=2.6, 4.7 Hz, 2H), 2.58-2.41 (m, 1H), 2.10-1.92 (m, 1H). Anal Calcd for C18H16O5 +1H2O: C, 67.49; H, 5.66. Found: C, 67.34; H, 5.42.

reactant | 4-hydroxy-1,1'-biphenyl | 1.2 mmol, 0.20 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | 3,4-dibenzyloxy-5-(2-hydroxyethyl)-2(5H)-furanone | 1.0 mmol, 0.34 g | C(C1=CC=CC=C1)OC=1C(OC(C1OCC1=CC=CC=C1)CCO)=O | C20H20O5
solvent | ether | CCOCC | C4H10O
product | 5-[2-((1,1'-biphenyl)-4-oxy)ethyl]-3,4-dihydroxy-2(5H)-furanone | 100 mg, 32% yield | C1(=CC=C(C=C1)OCCC1C(=C(C(O1)=O)O)O)C1=CC=CC=C1 | C18H16O5
